US07491735B2
Using general procedure A, 4-aminobenzonitrile (1.19 g, 10.1 mmol) and 1-Boc-4-piperidone (2.05 g, 10.3 mmol) gave 4-(4-cyano-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester as a white solid (1.58 g, 52%).

reactant | 4-aminobenzonitrile | 10.1 mmol, 1.19 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 1-Boc-4-piperidone | 10.3 mmol, 2.05 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
product | 4-(4-cyano-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.58 g, 52% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)C#N | C17H23N3O2
